US08114878B2
3.12.1 methyl(Z)-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-methoxy-but-2-enoate
18.5 potassium phthalimide are suspended in 50 ml DMF, the mixture is heated to 60° C. and 16.5 g methyl 4-chloro-3-methoxy-but-2-enoate in 50 ml DMF are added. After 2 days the reaction mixture is poured into 500 ml of water. The precipitate formed is suction filtered and washed with water. The residue is dissolved in ethyl acetate, dried and the solution is evaporated to dryness. The residue is triturated with ether. 21.77 g of the product are obtained as a powder.

reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | methyl 4-chloro-3-methoxy-but-2-enoate | 16.5 g | ClCC(=CC(=O)OC)OC | C6H9ClO3
reactant | water | 500 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | methyl(Z)-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-methoxy-but-2-enoate | 21.77 g | O=C1N(C(C2=CC=CC=C12)=O)C/C(=C/C(=O)OC)/OC | C14H13NO5
